US04277490
2,2-Difluoro-1-(2-naphthyl)-cyclopropanecarboxylic acid
Ethyl 2-(2-naphthyl)-acrylate (4.28 g) was dissolved in sulfolane 20 ml. Sodium chlorodifluoroacetate (9.1 g) was added in portions to the solution, heated to 160° C., over 35 minutes. The reaction mixture was cooled, quenched into ice water, then extracted with ether. The ether layer was washed several times with water and after separation dried over anhydrous sodium sulphate. After evaporation of the ether, the residual dark oil was chromatographed on silica gel using petroleum ether (b.p. 40°-60°)/methylene chloride mixture as eluent. The major fraction (4.05 g) was distilled under vacuum to yield the product as a yellow oil (3.92 g; 71%). The ester was identified from i.r. and p.m.r. spectra and hydrolysed by refluxing in 1 N sodium hydroxide/ethanol solution. On acidification and extraction the solid acid was recrystallised from petroleum ether/methylene chloride to yield the acid as a white solid, m.p. 190°-2°.

reactant | Ethyl 2-(2-naphthyl)-acrylate | 4.28 g | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC)=C | C15H14O2
reactant | Sodium chlorodifluoroacetate | 9.1 g | ClC(C(=O)[O-])(F)F.[Na+]
solvent | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2,2-Difluoro-1-(2-naphthyl)-cyclopropanecarboxylic acid | 3.92 g, 71% | FC1(C(C1)(C(=O)O)C1=CC2=CC=CC=C2C=C1)F | C14H10F2O2
